US08686152B2
A solution of (S)-{2-[4-(2-cyanobenzyl)-4-cyclohexylcarbamoyl-piperidin-1-yl]-2-oxo-1-thiophen-2-ylmethyl-ethyl}-carbamic acid tert-butyl ester (0.346 mmol; 200 mg) (prepared by reacting trans-4-amino-cyclohexanecarboxylic acid methyl ester with (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid), in tetrahydrofuran (1 mL) and methanol (1 mL) was added a 1M NaOH solution (0.376 mmol; 0.376 mL). The resulting mixture was stirred overnight at room temperature. The mixture was then purified via reverse phase HPLC. The desired fractions were combined and lyophilized. The resulting residue was dissolved in tetrahydrofuran (3 mL) and a 4N HCl in dioxane solution (4 mL) was added. The resulting mixture was stirred for 4 hours at room temperature and evaporated. The residue was triturated with diethyl ether to yield 4-{[1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-phenyl-piperidine-4-carbonyl]-amino}-trans-cyclohexanecarboxylic acid as a hydrochloride salt.

reactant | (S)-{2-[4-(2-cyanobenzyl)-4-cyclohexylcarbamoyl-piperidin-1-yl]-2-oxo-1-thiophen-2-ylmethyl-ethyl}-carbamic acid tert-butyl ester | 0.346 mmol, 200 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)(C(NC1CCCCC1)=O)CC1=C(C=CC=C1)C#N)CC=1SC=CC1)=O | C32H42N4O4S
reactant | methanol | 1 mL | CO | CH4O
reactant | NaOH | 0.376 mmol, 1M, 0.376 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-{[1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-phenyl-piperidine-4-carbonyl]-amino}-trans-cyclohexanecarboxylic acid | N[C@H](C(=O)N1CCC(CC1)(C(=O)N[C@@H]1CC[C@H](CC1)C(=O)O)C1=CC=CC=C1)CC=1SC=CC1 | C26H33N3O4S
